US05837708
In analogy to Example 45, by reacting 5-isopropyl-pyridine-2-sulphonic acid [6-chloro-2-(3-methoxy-benzyl)-5-(2-methoxy- phenoxy)-pyrimidin-4-yl]-amide with Na in ethylene glycol there was obtained 5-isopropyl-pyridine-2-sulphonic acid [6-(2-hydroxy-ethoxy)-2-(3-methoxy-benzyl)-5-(2-methoxy-phenoxy)-pyrimidin-4-yl]-amide as a white foam. MS: 579.3 (M-H)

reactant | 5-isopropyl-pyridine-2-sulphonic acid [6-chloro-2-(3-methoxy-benzyl)-5-(2-methoxy- phenoxy)-pyrimidin-4-yl]-amide | ClC1=C(C(=NC(=N1)CC1=CC(=CC=C1)OC)NS(=O)(=O)C1=NC=C(C=C1)C(C)C)OC1=C(C=CC=C1)OC | C27H27ClN4O5S
solvent | ethylene glycol | C(CO)O | C2H6O2
product | 5-isopropyl-pyridine-2-sulphonic acid [6-(2-hydroxy-ethoxy)-2-(3-methoxy-benzyl)-5-(2-methoxy-phenoxy)-pyrimidin-4-yl]-amide | OCCOC1=C(C(=NC(=N1)CC1=CC(=CC=C1)OC)NS(=O)(=O)C1=NC=C(C=C1)C(C)C)OC1=C(C=CC=C1)OC | C29H32N4O7S
